US05721264
N-[1-(2-phenylethyl)-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]amine
2.1 ml of 1.5M lithium diisopropylamide/cyclohexane solution were added to THF solution (35 ml) containing 363 mg of 1-(2-phenylethyl)-3-amino-4-ethoxycarbonylpyrazole and 0.40 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone, while cooling with dry ice-acetone, and stirred at room temperature for 15 minutes. The mixture was again cooled with dry ice-acetone, and 10 ml of THF solution of 877 mg of 4-bromomethyl-2'-[N-triphenylmethyl-(1H-tetrazol-5yl)]biphenyl were added thereto and stirred at room temperature for 5.5 hours. 10 ml of aqueous ammonium chloride solution was added to the reaction solution, THF was distilled off under reduced pressure, and the resultant was extracted with 50 ml of dichloromethane. The resulting extract was dried over magnesium sulfate and concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography(n-hexane-ethyl acetate=3;1→2:1) to obtain 234 mg of the intended compound as a pale yellow, amorphous solid.

reactant | lithium diisopropylamide cyclohexane | 1.5M, 2.1 ml | C(C)(C)[N-]C(C)C.[Li+].C1CCCCC1
reactant | 1-(2-phenylethyl)-3-amino-4-ethoxycarbonylpyrazole | 363 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1)C(=O)OCC)N | C14H17N3O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 4-bromomethyl-2'-[N-triphenylmethyl-(1H-tetrazol-5yl)]biphenyl | 877 mg | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 0.40 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | N-[1-(2-phenylethyl)-4-ethoxycarbonylpyrazol-3-yl]-N-[(2'-(N-triphenylmethyl-(1H-tetrazol-5-yl))biphenyl-4-yl)methyl]amine | 234 mg | C1(=CC=CC=C1)CCN1N=C(C(=C1)C(=O)OCC)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C47H41N7O2
